US07235572B2
c] 3-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol
A solution of 3-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionic acid ethyl ester (470 mg, 1.4 mmol) in tetrahydrofuran (5 ml) was added to a suspension of lithium aluminum hydride (53 mg, 1.4 mmol) in tetrahydrofuran (5 ml) under an argon atmosphere at ambient temperature within 5 min. The mixture was stirred for 5 h, cooled to 0° C. and treated cautiously with water (5 ml) and 10% aqueous NaOH (1 ml). The reaction mixture was filtered over celite, ice water/ethyl acetate 1/1 was added and the layers were separated. The aqueous layer was extracted one more time with ethyl acetate, the combined organic layers were washed with ice water/brine 1/1 and dried over sodium sulfate. Removal of the solvent under reduced pressure gave a yellow oil which was purified by column chromatography (silica gel, heptane/AcOEt) to yield 285 mg (950 μmol, 69%) of the title compound as colorless oil.

reactant | 3-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionic acid ethyl ester | 1.4 mmol, 470 mg | C(C)OC(CCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C16H16F3NO2S
reactant | lithium aluminum hydride | 1.4 mmol, 53 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 5 ml | O | H2O
reactant | NaOH | 1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | 950 μmol, 285 mg, 69% | CC=1N=C(SC1CCCO)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
